US06090839
EXAMPLE 7 2-(2-(3-(2.2-Dimethylpropyl)-7-propylbenz[4,5]isoxazol-6-yloxy)ethyl)benzofuran-5-acetic acid
Using the procedure from Example 1, steps F and G, the title compound was prepared from methyl 2-(2-hydroxyethyl)benzofuran-5-acetate and 3-(2,2-dimethylpropyl)-7-propyl-6-hydroxybenz[4,5]isoxazole as a colorless oil.

reactant | methyl 2-(2-hydroxyethyl)benzofuran-5-acetate | OCCC=1OC2=C(C1)C=C(C=C2)CC(=O)OC | C13H14O4
reactant | 3-(2,2-dimethylpropyl)-7-propyl-6-hydroxybenz[4,5]isoxazole | CC(CC1=NOC2=C1C=CC(=C2CCC)O)(C)C | C15H21NO2
product | 2-(2-(3-(2.2-Dimethylpropyl)-7-propylbenz[4,5]isoxazol-6-yloxy)ethyl)benzofuran-5-acetic acid | CC(CC1=NOC2=C1C=CC(=C2CCC)OCCC=2OC1=C(C2)C=C(C=C1)CC(=O)O)(C)C | C27H31NO5
